US06503937B1
5,7-Dibromo-3-(7-tert-butyl-5-methoxy-2-oxo-benzofuran-3-ylidene)-1,3-dihydro-indol-2-one (Z/E mixture)
7.6 g (0.025 mol) of 5,7-dibromoisatin, 6.15 g (0.025 mol) of 5,7-di-tert-butyl-3H-benzofuran-2-one and 0.5 g of p-toluenesulfonic acid are boiled in 25 ml of acetic acid under nitrogen for 21 hours. 40 ml of methanol are then added and the suspension obtained is cooled to 5° C. The solid then obtained is filtered off and the filter residue is washed with methanol and dried at 60° C. The yield is 10.7 g (80% of theory). Melting point: 303-314° C. C: calculated/found 49.73/49.46; H: calculated/found 3.38/3.45; N: calculated/found 2.76/2.73

reactant | 5,7-dibromoisatin | 0.025 mol, 7.6 g | BrC=1C=C2C(C(NC2=C(C1)Br)=O)=O | C8H3Br2NO2
reactant | 5,7-di-tert-butyl-3H-benzofuran-2-one | 0.025 mol, 6.15 g | C(C)(C)(C)C=1C=C(C2=C(CC(O2)=O)C1)C(C)(C)C | C16H22O2
reactant | p-toluenesulfonic acid | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | methanol | 40 ml | CO | CH4O
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 5,7-Dibromo-3-(7-tert-butyl-5-methoxy-2-oxo-benzofuran-3-ylidene)-1,3-dihydro-indol-2-one | BrC=1C=C2C(C(NC2=C(C1)Br)=O)=C1C(OC2=C1C=C(C=C2C(C)(C)C)OC)=O | C21H17Br2NO4
